US08222246B2
6-[3-(4-Fluoro-phenyl)-5-formyl-isoxazol-4-ylmethoxy]-nicotinic acid methyl ester (2.50 g, 7.02 mmol) and sodium borohydride (553 mg, 14.0 mmol) in methanol (125 mL) were stirred for 2 h at room temperature. Addition of 10% aqueous citric acid (200 mL) and extraction with ethyl acetate yielded 6-[3-(4-fluoro-phenyl)-5-hydroxymethyl-isoxazol-4-ylmethoxy]-nicotinic acid methyl ester (2.60 g, quant.) as white solid. MS: m/e=359.2 [M+H]+.

reactant | 6-[3-(4-Fluoro-phenyl)-5-formyl-isoxazol-4-ylmethoxy]-nicotinic acid methyl ester | 7.02 mmol, 2.50 g | COC(C1=CN=C(C=C1)OCC=1C(=NOC1C=O)C1=CC=C(C=C1)F)=O | C18H13FN2O5
reactant | sodium borohydride | 14.0 mmol, 553 mg | [BH4-].[Na+]
reactant | citric acid | 200 mL | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methanol | 125 mL | CO | CH4O
product | 6-[3-(4-fluoro-phenyl)-5-hydroxymethyl-isoxazol-4-ylmethoxy]-nicotinic acid methyl ester | 2.60 g | COC(C1=CN=C(C=C1)OCC=1C(=NOC1CO)C1=CC=C(C=C1)F)=O | C18H15FN2O5
